US08017611B2
1-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(methoxymethyl)pyrazol-1-yl]-1-piperidyl]-2-dimethylaminoethanone
Benzotriazol-1-yl-[bis(dimethylamino)methylene]oxonium tetrafluoroborate (115 mg) was added to a stirred suspension of 3-(1,3-benzoxazol-2-yl)-5-[3-(methoxymethyl)-1-piperidin-4-ylpyrazol-4-yl]pyridin-2-amine] (121 mg), 2-(dimethylamino)acetic acid (32.4 mg) and 4-methylmorpholine (0.066 ml) in NMP (1.5 ml) at 25° C. The mixture was stirred at 25° C. for 5 hours and purified by preparative HPLC using a Waters OBD reverse-phase column (C-18, 5 microns silica, 30 mm diameter, 150 mm length, flow rate of 40 ml/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent to provide the title compound (101 mg, 69.0%). NMR Spectrum: (DMSOd6) 1.73-1.85 (m, 1H), 1.87-1.98 (m, 1H), 2.04-2.16 (m, 2H), 2.21 (s, 6H), 2.72-2.82 (m, 1H), 3.08 (d, 1H), 3.13-3.22 (m, 2H), 3.41 (s, 3H), 4.15-4.23 (m, 1H), 4.41 (s, 2H), 4.41-4.51 (m, 2H), 7.40-7.48 (m, 2H), 7.66 (bs, 2H), 7.78 (dd, 1H), 7.84 (dd, 1H), 8.23 (s, 1H), 8.43 (d, 1H), 8.50 (d, 1H); Mass spectrum: M+H+ 490.

reactant | Benzotriazol-1-yl-[bis(dimethylamino)methylene]oxonium tetrafluoroborate | 115 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)[O+]=C(N(C)C)N(C)C
reactant | 3-(1,3-benzoxazol-2-yl)-5-[3-(methoxymethyl)-1-piperidin-4-ylpyrazol-4-yl]pyridin-2-amine | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C(=NN(C2)C2CCNCC2)COC)N | C22H24N6O2
reactant | 2-(dimethylamino)acetic acid | 32.4 mg | CN(CC(=O)O)C | C4H9NO2
reactant | 4-methylmorpholine | 0.066 ml | CN1CCOCC1 | C5H11NO
solvent | NMP | 1.5 ml | CN1CCCC1=O | C5H9NO
product | 1-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(methoxymethyl)pyrazol-1-yl]-1-piperidyl]-2-dimethylaminoethanone | 101 mg, 69.0% | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)C(CN(C)C)=O)COC)C=1OC2=C(N1)C=CC=C2 | C26H31N7O3
